US04173573
A process for preparing 3,4,3',4'-benzophenonetetracarboxylic dianhydride which comprises condensing an impure ortho-xylene mixture with acetaldehyde in contact with an acid catalyst to obtain an impure 1,1-bis(3,4-dimethylphenyl)ethane mixture, oxidizing the 1,1-bis(3,4-dimethylphenyl)ethane mixture with nitric acid to obtain a mixture of carboxylic acids, from which by crystallization and dehydration substantially pure 3,4,3',4'-benzophenonetetracarboxylic dianhydride is recovered.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | ortho-xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1,1-bis(3,4-dimethylphenyl)ethane | CC=1C=C(C=CC1C)C(C)C1=CC(=C(C=C1)C)C | C18H22
